US07132426B2
4-(2-Dimethylamino-ethylcarbamoyl)-piperidine-1-carboxylic acid tert-butyl ester was prepared from 1-t-butoxycarbonyl-iso-nipecotic acid (5 g), iso-butylchloroformate (2.83 mL) and N,N-dimethyl-1,2-ethylenediamine (2.63 mL). Exact mass calculated for C15H29N3O3 299.22, found 300.4 (MH+).

reactant | 1-t-butoxycarbonyl-iso-nipecotic acid | 5 g | C(C)(C)(C)OC(=O)N1CCC(C(=O)O)CC1 | C11H19NO4
reactant | iso-butylchloroformate | 2.83 mL | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | N,N-dimethyl-1,2-ethylenediamine | 2.63 mL | CN(CCN)C | C4H12N2
product | 4-(2-Dimethylamino-ethylcarbamoyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C(NCCN(C)C)=O | C15H29N3O3
